US08937071B2
To a mixture of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (100 mg, 0.260 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added 2-(4-bromo-2-fluorophenyl)-N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)acetamide (120 mg, 0.286 mmol), cesium carbonate (169 mg, 0.519 mmol) and PdCl2(dppf) (18.99 mg, 0.026 mmol). The mixture was stirred under a N2 atmosphere at 110° C. for 30 min under microwave. Then the reaction residue was filtered and the filtrate was concentrated to give the crude product, which was purified by preparative TLC (PE:EA=1:1, Rf=0.6) to yield a light yellow solid of N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (50 mg, 0.071 mmol, 27.3% yield): 1H NMR (400 MHz, CD3OD) δ 8.51 (d, J=2.5 Hz, 1H), 8.29 (d, J=2.5 Hz, 1H), 7.97 (d, J=2.0 Hz, 1H), 7.52-7.35 (m, 6H), 6.93 (d, J=8.5 Hz, 2H), 5.39 (s, 2H), 4.47 (m, 2H), 4.17 (m, 2H), 3.78-3.85 (m, 5H), 1.42-1.47 (m, 3H), 1.38-1.42 (m, 3H); ES-LCMS m/z 600.1 (M+H).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.260 mmol, 100 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | 2-(4-bromo-2-fluorophenyl)-N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)acetamide | 0.286 mmol, 120 mg | BrC1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)OCC)F | C16H13BrF4N2O2
reactant | cesium carbonate | 0.519 mmol, 169 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.026 mmol, 18.99 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(6-ethoxy-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.071 mmol, 50 mg, 27.3% yield | C(C)OC1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H29F4N3O5
